US07402683B2
Methyl 3-amino-3-(2,3-dihydro-1,4-benzodioxin-6-yl)propionate
3-Amino-3-(2,3-dihydro-1,4-benzodioxin-6-yl)propionic acid [synthesis according to instructions known from the literature (e.g., L. Lázár, T. Martinek, G. Bernáth, F. Fülöp, Synth. Comm. 1998, 28, 219-224)]is introduced into a vessel in methanol (about 0.5 to 1.0 mol/l) and admixed dropwise at 0° C. with 1.2 eq of thionyl chloride. When the addition has been made the reaction mixture is stirred at room temperature overnight and subsequently concentrated. The residue is dissolved in a little methanol and the product is precipitated with diethyl ether. The solid is filtered off with suction, washed repeatedly with diethyl ether and dried under reduced pressure.

reactant | 3-Amino-3-(2,3-dihydro-1,4-benzodioxin-6-yl)propionic acid | NC(CC(=O)O)C1=CC2=C(OCCO2)C=C1 | C11H13NO4
reactant | thionyl chloride | 1.2 eq | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | about 0.5 to 1.0 mol/l | CO | CH4O
product | Methyl 3-amino-3-(2,3-dihydro-1,4-benzodioxin-6-yl)propionate | NC(CC(=O)OC)C1=CC2=C(OCCO2)C=C1 | C12H15NO4
